US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (0.17 g, 0.39 mmol) was dissolved in 5 ml DMF at room temperature and K2CO3 (0.323 g, 2.34 mmol) was added. 1-(2-Bromo-ethyl)-cyclobutanecarboxylic acid ethyl ester (0.184 g, 0.78 mmol) prepared according to the procedure from Tetrahedron 1994, 50(32), 9825-30 was added and the reaction was allowed to heat to 80° C. overnight. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate, dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (50% EtOAc/50% Hexane) to afford the 1-[2-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-ethyl]-cyclobutanecarboxylic acid ethyl ester (0.155 g, 67%).

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.39 mmol, 0.17 g | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | K2CO3 | 2.34 mmol, 0.323 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-Bromo-ethyl)-cyclobutanecarboxylic acid ethyl ester | 0.78 mmol, 0.184 g | C(C)OC(=O)C1(CCC1)CCBr | C9H15BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-ethyl]-cyclobutanecarboxylic acid ethyl ester | 0.155 g, 67% | C(C)OC(=O)C1(CCC1)CCOC1=CC=C(C=C1)C(=O)N1C(CC(C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C | C34H37ClN2O5
